US07816371B2
c. (R)-2-(5-(2-(4-Chloro-3-(trifluoromethyl)phenyl)acetamido)-1-oxoisoquinolin-2(1H) -yl)propanamide
A round bottom flask was charged with 2-(4-chloro-3-(trifluoromethyl)phenyl)acetic acid (0.13 g, 0.00056 mol), N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate (0.3 g, 0.0009 mol), N,N-diisopropylethylamine (0.2 mL, 0.0009 mol), N,N-dimethylformamide (3 mL, 0.04 mol) and (R)-2-(5-amino-1-oxoisoquinolin-2(1H)-yl)propanamide (0.1 g, 0.0004 mol). The reaction was stirred at room temperature for 16 h. The solvent was removed under reduced pressure and the residue purified by flash chromatography (12 g, 0-10% MeOH/DCM) to get the product as white solid. MS m/z=451.8(M+H). 1H NMR (400 MHz; DMSO-d6) δ 10.10 (s, 1H), 8.07(d, J=8.42 Hz, 1H), 7.89 (s, 1H), 7.82 (d, J=8.47 Hz, 1H) 7.73-7.68 (m, 2H), 7.63 (s, 1H), 7.46 (d, J=7.57 Hz, 2H), 7.23 (bs, 1H), 6.68 (d, J=8.02 Hz, 1H), 5.50-5.45 (q, J=7.24 Hz, 1H), 3.92 (s, 2H), 1.54 (d, J=7.66 Hz, 3H).

reactant | 2-(4-chloro-3-(trifluoromethyl)phenyl)acetic acid | 0.00056 mol, 0.13 g | ClC1=C(C=C(C=C1)CC(=O)O)C(F)(F)F | C9H6ClF3O2
reactant | N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | 0.0009 mol, 0.3 g | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
reactant | N,N-diisopropylethylamine | 0.0009 mol, 0.2 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-dimethylformamide | 0.04 mol, 3 mL | CN(C=O)C | C3H7NO
reactant | (R)-2-(5-amino-1-oxoisoquinolin-2(1H)-yl)propanamide | 0.0004 mol, 0.1 g | NC1=C2C=CN(C(C2=CC=C1)=O)[C@@H](C(=O)N)C | C12H13N3O2
product | (R)-2-(5-(2-(4-Chloro-3-(trifluoromethyl)phenyl)acetamido)-1-oxoisoquinolin-2(1H) -yl)propanamide | ClC1=C(C=C(C=C1)CC(=O)NC1=C2C=CN(C(C2=CC=C1)=O)[C@@H](C(=O)N)C)C(F)(F)F | C21H17ClF3N3O3
